US09216993B2
2.4 mL of benzyl bromide (20 mmol) was added dropwise over an hour to a solution of 1.6 mL of pyridine in 5 mL of acetonitrile. Then reaction mixture was heated at 70 to 72° C. for 3 hours. Solvent was removed under reduced pressure and the residue was dissolved in 16 mL of ethanol. 1.1 g of sodium borohydride (30 mmol) was added in small portions over 30 minutes. After stirring for 24 hs reaction mixture was carefully quenched with 50 mL of water and solvents were removed in vacuo. The residue was portioned between ethyl acetate and 2M NaOH solution. Organic extracts were washed with brine, dried over MgSO4 and evaporated to afford crude 3.36 g of crude 1-benzyl-1,2,3,6-tetrahydropyridine which was used in the next step without purification.

reactant | benzyl bromide | 20 mmol, 2.4 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | pyridine | 1.6 mL | N1=CC=CC=C1 | C5H5N
reactant | sodium borohydride | 30 mmol, 1.1 g | [BH4-].[Na+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-benzyl-1,2,3,6-tetrahydropyridine | 3.36 g | C(C1=CC=CC=C1)N1CCC=CC1 | C12H15N
